US07091353B2
3-Chloro-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-benzamide I-121
To a suspension of 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione (0.10 g, 0.35 mmol) in THF (15 ml) was added 3-chlorobenzoyl chloride (0.12 g, 0.70 mmol) The mixture was heated to reflux for 18 h. The reaction mixture was allowed to cool and to the solution was added methanol (2 ml). The reaction mixture was stirred for an additional 15 minutes followed by solvent evaporation in vacuo. The resulting solid was slurried in diethyl ether (20 ml) and filtered to give 0.11 g (73%) of product as an off-white solid: mp 283–285° C.; 1H NMR (DMSO-d6) 11.06 (s, 1H), 10.43 (s, 1H), 8.48 (d, J=8.3 Hz, 1H), 7.98–7.61 (m, 6H), 2.80–2.51 (m, 3H), 2.11–2.01(m, 1H), 1.92 (s, 3H), 1.61 (t, J=6.4 Hz, 2H), 1.29 (bs, 6H), 0.87 (t, J=6.3 Hz, 3H); 13C NMR (DMSO-d6) 171.72, 171.64, 168.53, 167.11, 163.55, 135.81, 135.75, 135.35, 133.59, 132.07, 131.03, 130.73, 127.03, 126.37, 125.58, 118.43, 118.06, 58.80, 28.90, 28.37, 20.84; Anal. Calcd. For C21H16ClN3O5: C, 59.23; H, 3.79; N, 9.87 Found: C, 59.00; H, 3.80; N, 9.70.

reactant | 4-amino-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.35 mmol, 0.10 g | NC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(CC1)=O)=O)C)=O | C14H13N3O4
reactant | 3-chlorobenzoyl chloride | 0.70 mmol, 0.12 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | methanol | 2 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-Chloro-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-benzamide | 0.11 g, 73% | ClC=1C=C(C(=O)NC2=C3C(N(C(C3=CC=C2)=O)C2(C(NC(CC2)=O)=O)C)=O)C=CC1 | C21H16ClN3O5
